Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer for Cath
 
Major Surgical or Invasive Procedure:
Cardiac Catherization: ___
- LAD: 90% Lesion in septal portion distal to ___ septal branch
- LCx: 50% lesion in Major OM2
- RCA: subtotal occlusion with thrombus
- DES (Promus 2.6mm x 23mm) to RCA
- DES (Promus 2.5mm x 18mm) to LAD

 
History of Present Illness:
___ year old patient with DM II, HTN, HLD without known CAD or 
prior MI who initially presented to ___ with chest pain rated 
___ radiating down both arms and pain radiating across back. 
Reports a recent history of CP while on vacation in ___ 
___ but did not want to come home from vacation. In ED at 
OSH Trop 1.84. EKG with ST elevation in lead III only and he 
received NGT and aspirin with resolution in pain.
.  
In the ED, initial vitals were 100 % on 2lnc, bp 124/62, hr 67 
sinus, afebrile. He received heparin bolus:4000 bolus at 12noon, 
gtt at 23cc/hr; 1140u/hr, asa 325mg daily, sl ntg x 1, plavix 
600mg, lipitor 80mg
.  
He presents to floor s/p cardiac catherization where a DES 
(promus) was placed to distal RCA (2.5mmx23mm) and LAD (2.5mm x 
18mm). He is in stable condition on the floor without 
complaints. Dressing site appears intact.
.
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
- NIDDM II
- HTN
- HLD
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
VS: T97.6 115/64 68 18 97% ___  
GENERAL: Well appearing male s/p Cath, walking around floor in 
NAD
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with low JVP
CARDIAC: S1S2 clear and of good quality. No m/r/g. No thrills, 
lifts. No S3 or S4.  
LUNGS: CTAB, moving air well and symmetrically
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits. Cath site dressing is 
C/D/I without evidence of hematoma or bruit. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
Admission Labs: (OSH)
glucose: 265 at 1045 am
wbc 9.3, hct 39.9, plt 286
INR: 1.14
na 135, K 4.6, bun 18, creat 0.9
Radiology Results:   cxr: negative 
  
S/P Cath Labs:
___ 10:00PM BLOOD WBC-8.4 RBC-3.77* Hgb-11.9* Hct-36.5* 
MCV-97 MCH-31.5 MCHC-32.6 RDW-12.7 Plt ___
___ 06:04AM BLOOD ___ PTT-26.0 ___
___ 10:00PM BLOOD Glucose-352* UreaN-18 Creat-1.1 Na-137 
K-4.4 Cl-101 HCO3-23 AnGap-17
___ 10:00PM BLOOD CK-MB-70*
___ 10:00PM BLOOD Calcium-9.1 Phos-3.6 Mg-1.3*
   
Discharge Labs:
___ 06:04AM BLOOD WBC-8.2 RBC-3.75* Hgb-12.4* Hct-36.7* 
MCV-98 MCH-33.0* MCHC-33.7 RDW-12.8 Plt ___
___ 06:04AM BLOOD Glucose-190* UreaN-19 Creat-1.2 Na-140 
K-4.5 Cl-102 HCO3-29 AnGap-14
___ 06:04AM BLOOD CK-MB-39* cTropnT-1.90*
___ 06:04AM BLOOD Calcium-9.2 Phos-4.3 Mg-1.6
  
CARDIAC CATH ___: LAD 90% lesion in septal portion distal 
to ___ septal branch. LCx 50% lesion in major OM2. RCA subtotal 
occlusion with thrombus just proximal to bifurcation. 
 
Brief Hospital Course:
___ yo M with HTN, HLD, DMII who presents from OSH with STEMI s/p 
cardiac cath with DES to RCA and LAD.
.
# NSTEMI: Patient was transferred from OSH with chest pain, 
elevated troponins and EKG changes. EKG with only ST elevation 
sin lead III so this is most likely an NSTEMI and not a true 
STEMI. He received a cardiac cath which showed LAD 90% lesion in 
septal portion distal to ___ septal branch. LCx 50% lesion in 
major OM2. RCA subtotal occlusion with thrombus just proximal to 
bifurcation and he received DES to RCA (Promus 2.6mm x 23mm) and 
DES (Promus 2.5mm x 18mm) to LAD. He was treated with Aspirin 
325 mg PO DAILY, Atorvastatin 80 mg PO DAILY, Clopidogrel 75 mg 
PO DAILY, Lisinopril 20 mg PO DAILY and Metoprolol Tartrate 12.5 
mg PO BID all of which were continued on discharge. Of note, 
patient was on Simvastatin 80mg Daily as an outpatient, this was 
switchd to Atorvastatin 80 given FDA regulations on 80mg and 
PROVE-IT trial (atorva). ___ cleared patient on day of discharge, 
cath site was clean without hematoma or developing bruit and his 
CEs trended down. He needs a TTE as an outpatient.
.  
# HTN: Chronic, Stable. Well controlled as an outpatient. 
Treated with Lisinopril 20 mg PO DAILY and Metoprolol Tartrate 
12.5 mg PO BID 
.  
# HLD: Chronic, stable. Simvastatin 80mg daily was changed to 
Atorvastatin 80 mg PO/NG DAILY.  
.  
# DMII: Chronic, Stable on Metformin as an oupatient. Metformin 
was held during admission for catherization, QACHS ___ and 
covered with HISS. Metformin was held on discharge for 72hours. 
Patient instructed to discuss with his PCP prior to restarting.
.  
TRANSITIONAL ISSUES:
- Metformin being ___ on discharge. Outpatient PCP should 
restart this after 72 hours of discharge.
- Patient requires a TTE as an outpatient.
 
Medications on Admission:
- metformin,
- simvastatin 
- lisinopril
- glyburide
 
Discharge Medications:
1. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. glyburide  Oral
7. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO once a day.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*0*
8. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual q5 as needed for chest pain for 3 doses: Please call 
___ if your chest pain does not resolve or if you feel 
lightheaded or pass out after taking nitro.
Disp:*30 tablets* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
- Non-ST Segment Elevation Myocardial Infarction
- Coronary Artery Disease s/p Cardiac Catherization
  
Chronic:
- DM II non-insulin dependent
- HTN
- HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
  
It was a pleasure treating you during this hospitalization. You 
were transferred to ___ for cardiac catherization since you 
were found to have a heart attack at ___. You had a 
successful cardiac catherization which showed a 90% blockage in 
your Left Anterior Descending Artery and you had a drug eluding 
stent (DES) (Promus 2.5mm x 18mm) placed. You were also found to 
have a subtotal occlusion of your Right Coronary Artery (RCA) 
with a clot for which you had another DES (Promus 2.6mm x 23mm) 
placed in your RCA. Your post cardiac catherization course was 
unremarkable and you are being discharged in stable condition 
after clearance from Physical Therapy.
  
The following Changes to your medications were made;
- START Aspirin 325 mg PO take DAILY 
- START Clopidogrel 75 mg PO take DAILY 
- START Metoprolol 25mg PO take Daily
- CHANGE Simvastatin to Atorvastatin 80mg take by mouth DAILY
- HOLD Metformin until you see your Primary Care Physician. Your 
PCP should reevaluate when you should restart Metformin since 
you received contrast during cath.
- No other changes were made to your medications. Please 
continue taking your home medications as previously prescribed
  
 
Followup Instructions:
___